US08580783B2
To a solution of commercially available (3-nitro-phenyl)-acetyl chloride (2.20 g, 11.05 mmol) in anhydrous DCM (9 mL) was added 2-aminobenzoic acid (0.76 g, 5.50 mmol). Pyridine (3 mL) was then added to the mixture and the reaction mixture was heated under microwave condition at 120° C. for 30 minutes, then diluted with dichloromethane and washed with NaHCO3 satured solution, then with water followed by brine. The organic phase was dried over Na2SO4, filtered and evaporated to give the 2-(3-nitro-benzyl)-benzo[d][1,3]oxazin-4-one intermediate as red oil. To a solution of 2-(3-nitro-benzyl)-benzo[d][1,3]oxazin-4-one in dry pyridine (10 mL) was added aminoguanidine hydrogencarbonate (0.90 g, 6.60 mmol) and the mixture was heated under microwave condition at 180° C. for 20 minutes. The solvent was then evaporated and the crude was purified by flash column chromatography on silica gel eluting with DCM/CH3OH 95/5 to afford the title compound as orange solid (0.35 g, 30% yield).

reactant | (3-nitro-phenyl)-acetyl chloride | 11.05 mmol, 2.20 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)Cl | C8H6ClNO3
reactant | 2-aminobenzoic acid | 5.50 mmol, 0.76 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | Pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 9 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(3-nitro-benzyl)-benzo[d][1,3]oxazin-4-one | [N+](=O)([O-])C=1C=C(CC=2OC(C3=C(N2)C=CC=C3)=O)C=CC1 | C15H10N2O4
